US06753342B2
Under nitrogen atmosphere, sodium hydride (10 mg of a 60% wt/wt suspension in mineral oil) is added to a solution of 2-[1-(4-chlorobenzyl)-1H-indol-3-yl]-2-oxo-N-(5-oxo-2,5-dihydro-3-furanyl)acetamide (100 mg) in dry DMF (2 ml). After 20′, methyl iodide (0.016 ml) is added. After 3 h the solvent is removed by roto-evaporation and the obtained residue is partitioned between water and ethyl acetate. The organic layer is dried over sodium sulfate and concentrated to dryness. The obtained residue is suspended in boiling MeOH/i-PrOH 1/1. After cooling to room temperature the insoluble material is collected by filtration and oven-dried at 60° C. for 3 h, to give 2-[1-(4-chlorobenzyl)-1H-indol-3-yl]-N-methyl-2-oxo-N-(5-oxo-2,5-dihydro 3-furanyl)acetamide (52 mg).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-[1-(4-chlorobenzyl)-1H-indol-3-yl]-2-oxo-N-(5-oxo-2,5-dihydro-3-furanyl)acetamide | 100 mg | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(C(=O)NC=2COC(C2)=O)=O)C=C1 | C21H15ClN2O4
reactant | methyl iodide | 0.016 ml | CI | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-[1-(4-chlorobenzyl)-1H-indol-3-yl]-N-methyl-2-oxo-N-(5-oxo-2,5-dihydro 3-furanyl)acetamide | 52 mg | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(C(=O)N(C=2COC(C2)=O)C)=O)C=C1 | C22H17ClN2O4
